US04478842
A mixture of 4.7 g of 1-[2-(4-ethoxycarbonylphenoxy)ethyl]-2-(3-pyridyl)-3-methylindole in 220 ml of 2N hydrochloric acid is heated under reflux for 6 hours. After cooling the solution is made basic with 3 N NaOH and extracted with ethyl acetate. The basic solution is filtered and acidified to pH 6-7 with 5 N HCl. The solid is collected, dried and recrystallized from acetone to give 1-[2-(4-carboxyphenoxy)ethyl]-2-(3-pyridyl)-3-methylindole, m.p. 190°-193°.

reactant | 1-[2-(4-ethoxycarbonylphenoxy)ethyl]-2-(3-pyridyl)-3-methylindole | 4.7 g | C(C)OC(=O)C1=CC=C(OCCN2C(=C(C3=CC=CC=C23)C)C=2C=NC=CC2)C=C1 | C25H24N2O3
reactant | NaOH | 3 N | [OH-].[Na+]
solvent | hydrochloric acid | 2N, 220 ml | Cl | ClH
product | 1-[2-(4-carboxyphenoxy)ethyl]-2-(3-pyridyl)-3-methylindole | C(=O)(O)C1=CC=C(OCCN2C(=C(C3=CC=CC=C23)C)C=2C=NC=CC2)C=C1 | C23H20N2O3
